US05104892
Step 1) Preparation of 1-Chloro-3-(4-nitrophenoxy)propane
To a cooled (5°-10° C.) suspension of KOtBu (1.34 g, 11.96 mmol) in DMSO (5 mL) was added a solution of 4-fluoronitrobenzene (1.61 g, 11.39 mmol) and 3-chloro-1-propanol (1.13 g, 11.96 mmol) in DMSO (5 mL). The cooling bath was removed and stirring was continued for 3 hours. The mixture was diluted with water (100 mL) and extracted with ether. The combined extracts were washed with brine, dried (MgSO4), and concentrated to give a brown oil. Purification by flash chromatography (10% EtOAc/hexane) gave 850 mg (35%) of product as a yellow oil.

reactant | KOtBu | 11.96 mmol, 1.34 g | CC(C)(C)[O-].[K+]
reactant | 4-fluoronitrobenzene | 11.39 mmol, 1.61 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 3-chloro-1-propanol | 11.96 mmol, 1.13 g | ClCCCO | C3H7ClO
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 1-Chloro-3-(4-nitrophenoxy)propane | 850 mg, 35% | ClCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO3
